US04022908
To a suspension of 0.34 g (0.008 mole) of sodium hydride in 45 ml of glyme is added dropwise a solution of 2.0 g (0.008 mole) of 6-hydroxy-2-nitro-3-phenylbenzofuran in 20 ml of glyme. To this suspension is added 16 g (0.010 mole) of ethyl iodide and the mixture is heated to its reflux temperature and maintained at reflux for 5 hours. After cooling to 25° C. an additional 0.1 g of sodium hydride and 5 ml of ethyl iodide are added and the mixture is refluxed for about three hours. The mixture is poured into water and extracted with diethyl ether. The extracts are washed with water and saturated sodium chloride solution and dried. Concentration of the extracts provides a residue which is recrystallized from aqueous ethanol to provide yellow needles of 6-ethoxy-2-nitro-3-phenylbenzofuran, m.p. 109°-111° C.

reactant | sodium hydride | 0.008 mole, 0.34 g | [H-].[Na+]
reactant | 6-hydroxy-2-nitro-3-phenylbenzofuran | 0.008 mole, 2.0 g | OC1=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C=C1 | C14H9NO4
reactant | ethyl iodide | 0.010 mole, 16 g | C(C)I | C2H5I
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | ethyl iodide | 5 ml | C(C)I | C2H5I
reactant | water | O | H2O
solvent | glyme | 45 ml | C(OC)COC | C4H10O2
solvent | glyme | 20 ml | C(OC)COC | C4H10O2
product | 6-ethoxy-2-nitro-3-phenylbenzofuran | C(C)OC1=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C=C1 | C16H13NO4
